US07838498B2
Preparation of 2-(2-bromo-5-chloro-4-(4-ethylbenzyl)phenoxy)ethanol (Intermediate AU)
To a solution of 2-bromo-5-chloro-4-(4-ethylbenzyl)phenol (AT) (3.26 g, 10 mmol) in anhydrous DMF (15 mL), NaH (0.72 g, 30 mmol) was added in portions. The reaction mixture was stirred for 2 h at room temperature, and then 2-bromoethanol (3.75 g, 30 mmol) was added dropwise, and the reaction mixture was heated to 45° C. overnight. TLC showed the reaction was complete. The reaction was quenched with the saturated NH4Cl, the mixture was extracted with EtOAc, and then washed with water and brine. After drying with anhydrous Na2SO4 the organic portion was filtered and concentrated. The residue was purified by flash chromatography to give AU as an oil (3.00 g, yield 81%). 1H-NMR (CDCl3, 300 MHz) δ 7.32 (s, 1H), 7.13 (m, 4H), 6.94 (s, 1H), 4.11 (m, 2H), 3.57-3.99 (m, 4H), 2.64 (q, J=7.5 Hz, 2H), 1.22 (t, J=7.5 Hz, 3H).

reactant | 2-bromo-5-chloro-4-(4-ethylbenzyl)phenol | 10 mmol, 3.26 g | BrC1=C(C=C(C(=C1)CC1=CC=C(C=C1)CC)Cl)O | C15H14BrClO
reactant | NaH | 30 mmol, 0.72 g | [H-].[Na+]
reactant | 2-bromoethanol | 30 mmol, 3.75 g | BrCCO | C2H5BrO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-(2-bromo-5-chloro-4-(4-ethylbenzyl)phenoxy)ethanol | 3.00 g, yield 81% | BrC1=C(OCCO)C=C(C(=C1)CC1=CC=C(C=C1)CC)Cl | C17H18BrClO2
